Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
HOSPITALIST EAST ATTENDING ADMIT NOTE
time pt seen & examined: 5:15pm

cc: abdominal pain, inability to take po
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ functional man despite complex PMH including HIV (last CD4 
397, VL undetect), HCV cirrhosis, COPD. Reports persistent, 
diffuse, intermittent abdominal pain over past two weeks. Has 
been seen in ED ___, and ___ for same. LAbs notable for 
mildly elevated AST (chronic), mildly elevated lipase (102, 94, 
124, etc, also chronic). CT abd on ___ reportedly without 
pathology to explain his pain. Also with marked abd bloating, 
has been passing flatus. No associated nausea, vomiting, 
diarrhea, melena, hematochezia. Denies any change in bowel 
habits, having formed brown BMs daily without straining. Reports 
normal appetite, no change in pain with meals, reports he has 
been eating normally. No fevers/chills, no dysuria, some urinary 
straining unchanged from baseline. Pain is worse at night and 
wakens him from sleep. No CP/SOB, reports DOE at baseline due to 
COPD, no change in exercise tolerance. No dizziness or falls. 
Denies prior episodes, though ED notes report pain for several 
months. At home he has tried tylenol, motrin, and tums, all 
without relief. In the ED he has received morphine with 
temporary relief. He was referred by PCP given failure of outpt 
management.  

In the ED, initial vitals:  98.7 67 128/50 16 99%  
meds/fluids administered: morphine 5mg IV, ondansetron 4mg po, 
NS 1L

Currently he reports same abd pain, frustrated with not being 
able to manage or know what is causing it. Hungry, asking for 
food. Has been taking all meds daily as directed, no recent 
changes or new medications. No herbal or other OTC supplements. 
No EtOH in many years. ROS otherwise NC.  
  

 
Past Medical History:
# HIV
# chronic hepatitis C with portal HTN
# HTN
# hyperlipidemia
# CAD s/p DES to mid-LAD, D1, and distal RCA ___, s/p DES to 
___ ___
# Grade I LV diastolic dysfunction (TTE ___
# ___ aortic regurgitation (TTE ___
# PVD
# chronic kidney disease stage II (Cr 1.4)
# COPD
# anemia of chronic disease, G6PD deficiency
# SIADH
# GERD
# chronic diarrhea
# cervical spinal stenosis
# ? pulmonary TB
# +RPR treated in the ___

 
Social History:
___
Family History:
Per OMR: 
Patient thinks mother had heart disease, but unclear what kind. 
 
Physical Exam:
VS:  97.4 206/102 > 180/80 66 99% RA
GENERAL: alert, well-appearing
HEENT:  dry MM
NECK:  supple
RESP:  few right basilar rales, no change w cough
CV:  RRR s1s2 no M
ABD:  distended, +BS, tympanitic, nontender
EXT: no edema, feet warm 1+ DP pulses 
NEURO:  alert & oriented x3, ans quest appropriately & follows 
commands
SKIN: no rash
PSYCH: calm, appropriate
ACCESS: PIV
FOLEY: none
 
Pertinent Results:
___ 12:00PM   GLUCOSE-103* UREA N-39* CREAT-1.9* 
SODIUM-132* POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-23 ANION GAP-14
___ 12:00PM   ALT(SGPT)-17 AST(SGOT)-28 ALK PHOS-88 TOT 
BILI-0.5
___ 12:00PM   LIPASE-124*
___ 12:00PM   ALBUMIN-3.5
___ 12:00PM   WBC-3.8* RBC-2.87* HGB-9.2* HCT-26.9* MCV-94 
MCH-32.1* MCHC-34.3 RDW-13.1
___ 12:00PM   NEUTS-44.5* LYMPHS-42.8* MONOS-9.7 EOS-2.8 
BASOS-0.2
___ 12:00PM   PLT COUNT-96*

EKG reviewed: sinus, nl axis and intervals, no acute ischemic 
changes

CT ABD ___:
COMPARISON:  CT abdomen ___ 
  
FINDINGS:  
CHEST: 
The visualized lung bases are clear. A stent is noted in the 
right coronary 
artery. There is no pericardial effusion. 
  
ABDOMEN: 
This study is slightly limited by the lack of intravenous 
contrast. 
  
The contours of the liver appear slightly nodular, but the 
parenchyma is 
otherwise homogeneous in appearance. The spleen, pancreas, 
bilateral adrenal 
glands, and kidneys appear grossly unremarkable. The small and 
large bowel are 
normal in caliber, without evidence of obstruction.  An 
appendicolith is noted 
in the appendix, which is mildly dilated to 6.9 mm, but there 
are no secondary 
signs of inflammation. There is mild diverticulosis without 
evidence of 
diverticulitis. Small fat containing inguinal hernias are noted 
bilaterally. 
  
There are atherosclerotic calcifications throughout the 
abdominal aorta and 
iliac branches, but there is no evidence of aneurysm formation. 
There is no 
retroperitoneal, pelvic sidewall or inguinal lymphadenopathy by 
CT size 
criteria. There is no free fluid within the abdomen. No 
pneumoperitoneum. 
  
PELVIS: 
The bladder is moderately distended. The prostate is 
unremarkable. No free 
fluid within the pelvis. 
  
MUSCULOSKELETAL: 
There are degenerative changes noted throughout the lumbar and 
sacral spine. 
No evidence of fractures. 
  
IMPRESSION:  
  
1. No acute intra-abdominal process to explain patient's 
symptoms. 
2. Mildly dilated appendix containing an appendicolith, without 
secondary 
signs of inflammation. 
3. Slightly nodular liver contour, which likely reflects 
underlying liver 
disease 

RUQ US ___:  No evidence of ascites. 

 
Brief Hospital Course:
ASSESSMENT & PLAN:  ___ with chroinc HIV, HCV cirrhosis, COPD, 
HTN, CAD, chronic
diastolic dysfunction, CKD, chronic anemia admitted with 
non-specific gneralized abdominal pain without etiology whihc 
resolved with passing gas and stooling.  Abd US showed no 
ascites.  All of his labs are at their baseline from recent 
levels. A PVR was <100 on repeat, and so his oxybutinin was 
resumed. 

# ABD PAIN - nonspecific, self limited

Chronic issues
#) HTN
#) HEPATITIS C INFECTION
#) HIV
#) HEART FAILURE WITH PRESERVED EJECTION FRACTION
#) PANCYTOPENIA
#) INTERMITTENT HYPONATREMIA/ SIADH
#) COPD
#) CAD
#) HYPERLIPIDEMIA

Plan:
- DC to home
- continue all outpatient medications as ordered
- no need for opiate pain medications
- instructed patient to STOP all NSAIDS
- f/u with PCP ___ ___ days
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Clopidogrel 75 mg PO DAILY 
5. Desonide 0.05% Cream 1 Appl TP DAILY PRN irritation 
6. Docusate Sodium 100 mg PO BID 
7. Efavirenz 600 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. HydrALAzine 75 mg PO Q6H 
10. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
11. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
12. LaMIVudine 150 mg PO DAILY 
13. LOPERamide 2 mg PO QID:PRN diarrhea 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. Pravastatin 20 mg PO QPM 
16. oxybutynin chloride 5 mg oral daily 
17. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
18. Beano (alpha-d-galactosidase) 2 tabs oral QACprn gas 
19. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
3. Aspirin 81 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Efavirenz 600 mg PO DAILY 
7. HydrALAzine 75 mg PO Q6H 
8. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
9. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
10. LaMIVudine 150 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Senna 8.6 mg PO BID 
13. Clopidogrel 75 mg PO DAILY 
14. oxybutynin chloride 5 mg oral daily 
15. LOPERamide 2 mg PO QID:PRN diarrhea 
Do NOT take this if you are NOT having diarrhea 
16. Desonide 0.05% Cream 1 Appl TP DAILY PRN irritation 
17. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
18. Furosemide 40 mg PO DAILY 
19. Beano (alpha-d-galactosidase) 2 tabs oral QACprn gas 
20. Simethicone 120 mg PO QID:PRN gas 
21. Pravastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Chronic HIV
Chronic HCV
CKD 
CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with non-specific abdominal pain.  All of your 
labs were at their baseline, an abdominal ultrasound showed NO 
ascites, and the pain subsided.  You tolerated a normal diet and 
are stooling.  Please follow-up with your PCP next week.
 
Followup Instructions:
___